US07691858B2
Synthesis of 3-(2,4-diaminopteridin-6-yl)phenol (Compound II)
3-Hydroxyphenylglyoxal (2.10 g, 12.5 mmol) was dissolved in 100 mL of DI water. Acetone oxime (0.912 g, 12.5 mmol) was added, followed by 3 drops of 1N aqueous hydrochloric acid to bring the pH to ca. 2-3. This solution was stirred at 50° C. for one hour, then 2,4,5,6-tetraminopyrimidine sulfate (2.67 g, 11.2 mmol) was added and the reaction mixture was stirred at ambient temperature for 3 hours, then brought to reflux and refluxed for 6 hours. At this point it formed a thick yellow suspension. The reaction was allowed to cool down to ambient temperature. Saturated aqueous sodium bicarbonate was added dropwise to bring the pH to ca. 6-7. The precipitate was collected, washed extensively with water, then with 60 mL of methanol and repeatedly with diethyl ether and dried in vacuo to give 2.75 g of the title compound (96.5% yield) as a light-yellow solid.

reactant | 3-Hydroxyphenylglyoxal | 12.5 mmol, 2.10 g | OC=1C=C(C=CC1)C(=O)C=O | C8H6O3
reactant | Acetone oxime | 12.5 mmol, 0.912 g | CC(C)=NO | C3H7NO
reactant | 2,4,5,6-tetraminopyrimidine sulfate | 11.2 mmol, 2.67 g | S(=O)(=O)(O)O.NC1=NC(=C(C(=N1)N)N)N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DI water | 100 mL | O | H2O
catalyst | hydrochloric acid | 1N, 3 drops | Cl | ClH
product | 3-(2,4-diaminopteridin-6-yl)phenol | 2.75 g, 96.5% yield | NC1=NC2=NC=C(N=C2C(=N1)N)C=1C=C(C=CC1)O | C12H10N6O
